US07868036B2
a) 1-(4-{2-[3-(3-Methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methylbutyl}-2-oxooxazolidin-5-ylmethyl)piperidin-2-one
A mixture of 0.115 g of piperidin-2-one, 0.136 g of potassium tert-butoxide in 3 ml of dimethyl sulphoxide is stirred at room temperature over 30 minutes, admixed with 0.26 g of tert-butyl {3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-1-oxiranylpentyl}carbamate (Example 3Ab) and subsequently stirred further at room temperature overnight. The reaction mixture is poured onto ice-water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed successively with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | piperidin-2-one | 0.115 g | N1C(CCCC1)=O | C5H9NO
reactant | potassium tert-butoxide | 0.136 g | CC(C)([O-])C.[K+]
reactant | tert-butyl {3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methyl-1-oxiranylpentyl}carbamate | 0.26 g | COCCCC1=CN(C2=CC=C(C=C12)CC(CC(C1OC1)NC(OC(C)(C)C)=O)C(C)C)C | C27H42N2O4
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-(4-{2-[3-(3-Methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methylbutyl}-2-oxooxazolidin-5-ylmethyl)piperidin-2-one | COCCCC1=CN(C2=CC=C(C=C12)CC(CC1NC(OC1CN1C(CCCC1)=O)=O)C(C)C)C | C28H41N3O4
